US09416132B2
To a solution of 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine (200 mg, 0.64 mmol) and trans-4-aminocyclohexanol hydrogenchloride (184 mg, 1.59 mmol) in NMP (2.0 mL) was added NaHCO3 (161 mg, 1.91 mmol), the mixture was stirred at 180° C. for 45 mins under microwave irridation. The mixture was purified by flash chromatograph to give 4-((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanol (50 mg, 0.127 mmol, 16%) as a pale yellow solid.

reactant | 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine | 0.64 mmol, 200 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C13H7ClF3N3O
reactant | trans-4-aminocyclohexanol hydrogenchloride | 1.59 mmol, 184 mg | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | NaHCO3 | 1.91 mmol, 161 mg | C(=O)(O)[O-].[Na+]
solvent | NMP | 2.0 mL | CN1CCCC1=O | C5H9NO
product | 4-((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanol | 0.127 mmol, 50 mg, 16% | FC(OC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NC2CCC(CC2)O)(F)F | C19H19F3N4O2
